US07745450B2
5,7-Dichloro-3-isopropylpyrazolo[4,3-d]pyrimidine (90 mg), 1.2 mL of 3-chloroaniline and 250 μL of diisopropyl ethylamine were stirred at 60° C. for 24 hours. The reaction mixture was evaporated to dryness in vacuo. The residue was chromatographed on silica gel eluted with the following solvent system: CHCl3/heptane (100/17), to give 7-(3-chloroanilino)-5-chloro-3-isopropylpyrazolo[4,3-d]pyrimidine, yield 16%, mp=257-259° C. MS (ES+): 322.3 (100%, M+H+), 324.3 (64%, M+H+). 1H NMR (CDCl3; 300 MHz): 1.54 d (6H, J=7.1 Hz); 3.60 sept (1H, J=7.1 Hz), 7.16 d (1H), 7.34 t (1H), 7.88 d (1H), 8.10 s (1H).

reactant | 5,7-Dichloro-3-isopropylpyrazolo[4,3-d]pyrimidine | 90 mg | ClC=1N=C(C2=C(N1)C(=NN2)C(C)C)Cl | C8H8Cl2N4
reactant | 3-chloroaniline | 1.2 mL | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | diisopropyl ethylamine | 250 μL | C(C)(C)N(CC)C(C)C | C8H19N
product | 7-(3-chloroanilino)-5-chloro-3-isopropylpyrazolo[4,3-d]pyrimidine | yield 16% | ClC=1C=C(NC=2C3=C(N=C(N2)Cl)C(=NN3)C(C)C)C=CC1 | C14H13Cl2N5
